US04174448
Preparation of 5-(2-chloro-benzyl)-4-ethoxycarbonyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine hydrochloride
Into a three-necked 250 ml flask are added 25.1 g (0.1 M) N- (2-chloro-benzyl)-2-(2-thienyl)ethylamine dissolved in 30 ml dimethylformamide. Ethyl 2-chloro-2-ethoxy-acetate (18.3 g; 0.11 M) is then added over 6 minutes, and the resulting material is heated at 80° C. for 4 hours after which the desired product begins to precipitate out. After cooling of the medium, the product is filtered off and recrystallized from 3×20 ml acetone, to give 20.5 g 5-(2-chloro-benzyl)-4-ethoxy-carbonyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine hydrochloride (Yield: 55%).

reactant | N- (2-chloro-benzyl)-2-(2-thienyl)ethylamine | 0.1 M, 25.1 g | ClC1=C(CNCCC=2SC=CC2)C=CC=C1 | C13H14ClNS
reactant | Ethyl 2-chloro-2-ethoxy-acetate | 0.11 M, 18.3 g | ClC(C(=O)OCC)OCC | C6H11ClO3
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 5-(2-chloro-benzyl)-4-ethoxycarbonyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine hydrochloride | Cl.ClC1=C(CN2C(C3=C(CC2)SC=C3)C(=O)OCC)C=CC=C1 | InChI=1S/C17H18ClNO2S.ClH/c1-2-21-17(20)16-13-8-10-22-15(13)7-9-19(16)11-12-5-3-4-6-14(12)18;/h3-6,8,10,16H,2,7,9,11H2,1H3;1H
